US06747023B1
2-[4-[(1-Piperazinyl)carbonyl]phenyl]pyridine N-oxide hydrochloride
In dichloromethane (2.5 ml), 2-[4-[[4-(tert-butoxycarbonyl)piperazin-1-yl]carbonyl]phenyl]pyridine N-oxide was dissolved. To the resulting solution, a saturated solution of hydrochloride in ethanol (2.5 ml) was added, followed by stirring at room temperature for 1 hour. After the solvent was distilled off under reduced pressure, water was added to the residue, whereby an aqueous solution was obtained. Acetone was added to the aqueous solution until the solution became turbid. The precipitate was collected by filtration and washed with acetone, whereby the title compound (274 mg, 81%) was obtained.

reactant | hydrochloride | Cl | ClH
reactant | Acetone | CC(=O)C | C3H6O
reactant | 2-[4-[[4-(tert-butoxycarbonyl)piperazin-1-yl]carbonyl]phenyl]pyridine N-oxide | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=CC=C(C=C1)C1=[N+](C=CC=C1)[O-] | C21H25N3O4
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 2-[4-[(1-Piperazinyl)carbonyl]phenyl]pyridine N-oxide hydrochloride | Cl.N1(CCNCC1)C(=O)C1=CC=C(C=C1)C1=[N+](C=CC=C1)[O-] | InChI=1S/C16H17N3O2.ClH/c20-16(18-11-8-17-9-12-18)14-6-4-13(5-7-14)15-3-1-2-10-19(15)21;/h1-7,10,17H,8-9,11-12H2;1H
